US04110447
A mixture of 2.6 g of 1-chloro-3-p-biphenylyl-butan-3-ol and 1.36 g of imidazole is heated at 140° for 3 hours. After cooling and working up in the customary manner, 1-(1-imidazolyl)-3-p-biphenylyl-butan-3-ol is obtained.

reactant | 1-chloro-3-p-biphenylyl-butan-3-ol | 2.6 g | ClCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H17ClO
reactant | imidazole | 1.36 g | N1C=NC=C1 | C3H4N2
product | 1-(1-imidazolyl)-3-p-biphenylyl-butan-3-ol | N1(C=NC=C1)CCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H20N2O
